US04473570
A suspension of 6.63 g (36.2 mmole) of 4-acetylaminomethylpyrimidine-2,6-dione in 250 ml of phosphorous oxychloride was heated at reflux for 20 hours, and was cooled and evaporated. The residue was added to about 700 ml of cold saturated sodium bicarbonate solution. To the resulting mixture was added 200 ml of chloroform and enough solid sodium bicarbonate to neutralize the mixture. The solid was separated by filtration, washed with water and ethanol, and recrystallized from ethanol to provide yellow solid 7-chloro-3-methylimidazo[1,5-c]pyrimidin-5-one, m.p. 239° C. (dec.). Analysis: Calculated for C7H6ClN3O; %C, 45.8; %H, 3.3; %N, 22.9; Found; %C, 45.8; %H, 3.1; %N, 22.8.

reactant | 4-acetylaminomethylpyrimidine-2,6-dione | 36.2 mmole, 6.63 g | C(C)(=O)NCC=1NC(NC(C1)=O)=O | C7H9N3O3
reactant | phosphorous oxychloride | 250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-3-methylimidazo[1,5-c]pyrimidin-5-one | ClC=1C=C2N(C(N1)=O)C(N=C2)C | C7H6ClN3O
